US04859692
A solution of 4-(5-nitroindol-3-ylmethyl)-3-methoxybenzoic acid (0.6 g.) in N,N-dimethylformamide (DMF), (3 ml.) was added to a stirred suspension of oil-free sodium hydride (0.088 g.) in DMF (8 ml.) under a nitrogen atmosphere at ambient temperature. The red solution was stirred for 20 minutes, and acetic anhydride (0.187 g.) added. After 1 hour, the mixture was poured into hydrochloric acid (1N, 30 ml.), extracted with ethyl acetate (3×50 ml), the combined extracts washed with water (2×20 ml.), brine, dried (MgSO4) and evaporated. The product was crystallized from a mixture of tetrahydrofuran and ether to give 4-(1-acetyl-5-nitroindol-3-ylmethyl)-3-methoxybenzoic acid (0.455 g., 67%) as a yellow powder; partial NMR (250 MHz, DMSO-d6): 2.68(s,3H, NCOCH3); 3.95(s,3H, OMe); 4.13(s,2H, ArCH3).

reactant | 4-(5-nitroindol-3-ylmethyl)-3-methoxybenzoic acid | 0.6 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CC1=C(C=C(C(=O)O)C=C1)OC | C17H14N2O5
reactant | sodium hydride | 0.088 g | [H-].[Na+]
reactant | acetic anhydride | 0.187 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMF | 8 ml | CN(C=O)C | C3H7NO
product | 4-(1-acetyl-5-nitroindol-3-ylmethyl)-3-methoxybenzoic acid | 0.455 g, 67% | C(C)(=O)N1C=C(C2=CC(=CC=C12)[N+](=O)[O-])CC1=C(C=C(C(=O)O)C=C1)OC | C19H16N2O6
